US04112096
2-(Hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one
Following the procedure of Example 25, but substituting 2-[(acetoxy)methyl]pyrazolo[1,5-c]quinazoline-5(6H)-one for 1-methylpyrazolo[1,5-c]quinazoline-5(6H)-one-2-carboxylic acid ethyl ester in Example 25 and using a mole ratio of 2 to 1 for the quantity of potassium hydroxide to ester, the title compound is obtained.

reactant | 1-methylpyrazolo[1,5-c]quinazoline-5(6H)-one-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN2C(NC=3C=CC=CC3C2=C1C)=O | C14H13N3O3
reactant | potassium hydroxide | [OH-].[K+]
product | 2-(Hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | OCC1=NN2C(NC=3C=CC=CC3C2=C1)=O | C11H9N3O2
